US05594021
To a solution of 2-[2-(trimethylsilyl)ethoxymethyl]-N-(3,4-dimethyl-5-isoxazolyl)-2-(α-hydroxybenzyl)thiophene-3-sulfonamide (70 mg, 0-14 mmol) in DMF (2 ml) was added cesium fluoride (26 mg, 0.17 mmole) in one portion. The resulting mixture was heated to 100° C. for 10 hours. The solvents were removed by evaporation under vacuum and the remaining residue was extracted into ethyl acetate, washed with water, brine, and dried over MgSO4. The product was then purified by chromatography using 50-70% ethyl acetate/hexanes to give 26.2 mg N-(3,4-dimethyl-5-isoxazolyl)-2-(α-hydroxybenzyl)thiophene-3-sulfonamide as a pale white semisolid (51% yield).

reactant | 2-[2-(trimethylsilyl)ethoxymethyl]-N-(3,4-dimethyl-5-isoxazolyl)-2-(α-hydroxybenzyl)thiophene-3-sulfonamide | 0-14 mmol, 70 mg | C[Si](CCOCC1(SC=CC1S(=O)(=O)NC1=C(C(=NO1)C)C)C(C1=CC=CC=C1)O)(C)C | C22H32N2O5S2Si
reactant | cesium fluoride | 0.17 mmole, 26 mg | [F-].[Cs+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(3,4-dimethyl-5-isoxazolyl)-2-(α-hydroxybenzyl)thiophene-3-sulfonamide | 26.2 mg, 51% yield | CC1=NOC(=C1C)NS(=O)(=O)C1=C(SC=C1)C(C1=CC=CC=C1)O | C16H16N2O4S2
